US06982274B2
(3-Bromo-6-fluoro-2-methoxy-phenyl)-(3-fluoro-phenyl)-methanol
A total of 1.64 ml of diisopropylamine was dissolved in 27 ml of tetrahydrofuran, 6.8 ml of a 1.57 M solution of n-butyllithium in hexane was added at −50° C. under stirring, and the mixture was stirred at −30° C. for 30 minutes. After cooling to −60° C., 2 g of 1-bromo-4-fluoro-2-methoxy-benzene obtained in Production Example II-1-a was added and the mixture was stirred at −60° C. for 1 hour. Then, 1.55 ml of 3-fluoro-benzaldehyde was added, followed by stirring for 1 hour. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with diethyl ether. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated, to give 2.4 g of the title compound as a yellow-brown oil.

reactant | diisopropylamine | 1.64 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-fluoro-2-methoxy-benzene | 2 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | 3-fluoro-benzaldehyde | 1.55 ml | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (3-Bromo-6-fluoro-2-methoxy-phenyl)-(3-fluoro-phenyl)-methanol | 2.4 g | BrC=1C(=C(C(=CC1)F)C(O)C1=CC(=CC=C1)F)OC | C14H11BrF2O2
